US05514691
4-Chloro-N-(4-bromo-3-methyl-5-isoxazolyl)benzenesulfonamide was prepared from 5-amino-4-bromo-3-methylisoxazole and 4-chloro-benzenesulfonyl chloride according to the procedures described in Example 1b. The crude product was purified by recrystallization from ethyl acetate/hexanes to give a yellow powder, m.p. 145°-150° C., yield 93%.

reactant | 5-amino-4-bromo-3-methylisoxazole | NC1=C(C(=NO1)C)Br | C4H5BrN2O
reactant | 4-chloro-benzenesulfonyl chloride | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
product | 4-Chloro-N-(4-bromo-3-methyl-5-isoxazolyl)benzenesulfonamide | yield 93% | ClC1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=NO1)C)Br | C10H8BrClN2O3S
